US06080870
Step B: 4-(3',5'-Dichlorophenyl) benzyl bromide
To a solution of triphenylphospine (636 mg, 2.42 mmol) and carbon tetrabromide (830 mg, 2.50 mmol) in diethyl ether (5 mL) was added a solution of 4-(3',5'-bis-chlorophenyl) benzyl alcohol (50 mg, 1.98 mmol) in CH2Cl2 (12 mL). The reaction was stirred at ambient temperature for 16 hours, silica gel was than added and the solvent evaporated in vacuo. The product was isolated by chromatography (Silica gel, 10-30% EtOAc in hexanes) and obtained as a white solid.

reactant | triphenylphospine | 2.42 mmol, 636 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | carbon tetrabromide | 2.50 mmol, 830 mg | C(Br)(Br)(Br)Br | CBr4
reactant | 4-(3',5'-bis-chlorophenyl) benzyl alcohol | 1.98 mmol, 50 mg | ClC=1C=C(C=C(C1)Cl)C1=CC=C(CO)C=C1 | C13H10Cl2O
solvent | diethyl ether | 5 mL | C(C)OCC | C4H10O
solvent | CH2Cl2 | 12 mL | C(Cl)Cl | CH2Cl2
product | 4-(3',5'-Dichlorophenyl) benzyl bromide | ClC=1C=C(C=C(C1)Cl)C1=CC=C(CBr)C=C1 | C13H9BrCl2
